US07427612B2
(2-Morpholin-4-yl-5-nitro-phenyl)-[4-(4-trifluoromethoxy-phenyl)-piperazin-1-yl]-methanone
The title compound was prepared according to the procedure described for example 46 from 1-(4-Trifluoromethoxy-phenyl)-piperazine and 2-Morpholin-4-yl-5-nitro-benzoyl chloride (74%%, yellow solid, MS (m/e): 481.2(M+H, 100%)

reactant | 1-(4-Trifluoromethoxy-phenyl)-piperazine | FC(OC1=CC=C(C=C1)N1CCNCC1)(F)F | C11H13F3N2O
reactant | 2-Morpholin-4-yl-5-nitro-benzoyl chloride | N1(CCOCC1)C1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C11H11ClN2O4
product | (2-Morpholin-4-yl-5-nitro-phenyl)-[4-(4-trifluoromethoxy-phenyl)-piperazin-1-yl]-methanone | N1(CCOCC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C1=CC=C(C=C1)OC(F)(F)F | C22H23F3N4O5
